Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut / 
Wellbutrin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
Dobhoff tube placement
NJ Tube placement x 3 
J tube placement and exchange

 
History of Present Illness:
Patient is a ___ F w/ hx of gastric bypass, lupus anticoagulant,
DVT/PE (with systemic anticoagulation d/c'd ~ 1 week ago), CVA
___, L-sided deficits), epilepsy (on keppra and vimpat),
substance use disorder/chronic pain (on methadone), multiple
recent hospitalizations for UTI/AMS/malnutrition who presents
with lethargy, dysathria, aphasia. Her family was unable to
locate her today and when they did she was very lethargic. On
arrival she is unable to provide history. Per family, last known
well was at least 48 hours ago. Her baseline is walking with a
walker, follows instructions, A&Ox3. 

In the ED, the patient continued to be confused and unable to
provide a history. She had an episode of eye fluttering, shaking
and bowel incontinence lasting 2 minutes concerning for 
seizures,
resolving with administration of Ativan. Following this episode,
she became hypotensive with SBPs in ___.

- Initial Vitals: temp 97.8, HR 103, BP 97/80, RR 12, O2 100% RA
- Exam: notable for pupils 2mm, equal and reactive, moderate 
___,
swelling, erythema of upper extremities L>R, epigastric
tenderness, moving all extremities, ___ stroke scale 9,
disoriented, combative, pushing away examiner.
- Labs: elevated tbili, Ca 6, Mg 1.4, +UA
- Imaging: NCHCT with chronic cerebellar infarcts
- Consults: Neurology following seizure-like episode
- Interventions: Due to initial concern for methadone overdose,
pt received naltrexone. Received Ativan 2mg IV following episode
of seizure-like movement. s/p 2.5 L IVF with only mild
improvement in BP.

On the floor, patient appears confused. She says she is feeling
uncomfortable but is unable to further specify. It is unclear
whether or not she understands questions as she will answer the
same question with opposite responses.

ROS: Positives as per HPI; otherwise negative; however, unclear
if true negative.
 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient  
 - s/p cholecystectomy and gastric bypass (___), with f/u  
 complicated by multiple ex lap, gastrectomy, reversal surgery,  

 failed J-tube c/b colonic perforation  
 - multiple SBO during f/u from above  
 - hernia repair  
 - chronic abdominal pain, peptic ulcer disease  
 - asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE  
 - narcotic abuse, tobacco abuse  
 - depression, anxiety  
 - muscle weakness / myelopathy, chronic low back pain  
 - vulvar folliculitis  
 - arthorplasty - right total knee  
 - hepatitis C - positive ab test, negative HCV viral load in 2x 
 
 tests  
 - nephrolithiasis  
 - thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Many family members with strokes, HTN, DM. Brother with CHF. She 
reports her father may have had colon cancer around age ___, then 
had brain metastases (unclear if related or separate).
 
Physical Exam:
ADMISSION EXAM:
VS: T 98.1 HR 80 BP 103/65 RR 12 100% SPO2
GEN: ___ yo woman who is sleepy but arousable. She appears older
than stated age. NAD.
HENNT: Dry MM
CV: RRR, no M/R/G
RESP: No increased work of breathing. CTAB.
GI: Firm, non-distended abdomen. no rebound/no guarding. 
(patient
unsure of last BM timing)
GU: Severe CVA tenderness, no suprapubic tenderness
MSK: 2+ edema in bilateral upper extremities. 1+ edema in
bilateral lower extremities. Bilateral upper and lower
extremities cool to the touch. 
NEURO: AAOx2-3 (after multiple attempts)
PSYCH: Flat affect

DISCHARGE EXAM:
Deceased
 
Pertinent Results:
ADMISSION LABS:
================
___ 09:00PM BLOOD WBC-5.4 RBC-3.17* Hgb-9.8* Hct-29.9* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-17.0* RDWSD-55.1* Plt ___
___ 09:00PM BLOOD Neuts-78.5* Lymphs-16.6* Monos-4.3* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.20 AbsLymp-0.89* 
AbsMono-0.23 AbsEos-0.00* AbsBaso-0.01
___ 09:00PM BLOOD ___ PTT-34.6 ___
___ 09:00PM BLOOD Plt ___
___ 09:00PM BLOOD Glucose-88 UreaN-24* Creat-1.0 Na-143 
K-3.7 Cl-109* HCO3-22 AnGap-12
___ 09:00PM BLOOD ALT-68* AST-29 AlkPhos-124* TotBili-1.8* 
DirBili-1.3* IndBili-0.5
___ 09:00PM BLOOD cTropnT-0.02*
___ 09:00PM BLOOD Albumin-1.8* Calcium-6.9* Phos-4.5 
Mg-1.4*
___ 01:00PM BLOOD ___
___ 01:00PM BLOOD HIV Ab-NEG
___ 09:52PM BLOOD Lactate-0.9

Lipase 4
25OH vit D: 22
TSH 2.3
Zinc 25 (low)
Copper 55 (low)

UA (___): neg bld, neg nit, lg ___, 1 RBC, 44 WBCs, few bact, 0
epi

MICRO
=====
UCx (___): negative
BCx (___): pending x 2
C.diff (___): negative
BCx (___): negative x 2
UCx (___): negative
BCx (___): negative
UCx ___: >100K E.coli
                     
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------    16 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

BCx (___): negative

EKG (___):
NSR at 93 bpm, nl axis, PR 180, QRS 80, QTC 435, biphasic T wave
V3-V4 (unchanged from ___

EKG (___): 
NSR at 85 bpm, poor baseline, PR 172, QRS 84, QTC 447, no clear
ischemic changes

IMAGING:
========
J tube repositioning (___):
Successful exchange of a jejunostomy tube for a new 18 ___ 
MIC
jejunostomy tube. The tube is ready to use. 

CXR (___):
Comparison to ___.  The lung volumes are normal. 
Normal size of the cardiac silhouette.  Normal hilar and
mediastinal contours. No pneumonia, no pulmonary edema, no
pleural effusions.  Stable position of the right-sided PICC 
line.

KUB (___): 
No evidence of small bowel obstruction.  Oral contrast from
recent CT examination extends the level of the rectum.  No free
air. 

CT A/P w/cont (___):
1. The J-tube is now malpositioned with the bulb external to the
bowel, surrounded by soft tissue stranding in the region of the
omentum/abdominal wall.  Postprocedure images at the time of
J-tube placement ___ showed the bulb in good
position within the bowel.  The tube tip remains well 
within the jejunum and there are no direct findings of active
leak. ___ consultation suggested. 
2. No evidence of organized intra-abdominal abscess or bowel
obstruction. 
3. Stable chronic central biliary dilation, which is likely
related to postcholecystectomy changes. 
4. Bibasilar pulmonary ___ opacities are
likely inflammatory and could be related to aspiration given the
recent history of vomiting. 

CXR (___):
1.  The right upper extremity PICC has been slightly retracted
and now terminates in the mid superior vena cava. 
2.  No acute cardiopulmonary process. 
  
RUQ U/S (___):
Persistent moderate biliary dilatation, similar to prior MRI 
from
___ and CT from ___. 

KUB (___):
The ascending and transverse colon is dilated with air measuring
up to 8.8 cm. No dilated loops of small bowel or evidence of 
free
intraperitoneal air. 

KUB (___):
No radiographic evidence of bowel obstruction or free
intraperitoneal air.

J tube placement (___):
Successful placement of a 18 ___ modified MIC jejunostomy 
tube
with its tip in the jejunum.  The feeding tube should not be 
used
for 24 hours. 

MRCP (___):
1. No evidence of choledocholithiasis. 
2. Biliary dilation is unchanged since at least ___, and is
likely due to post cholecystectomy ectasia. 
3. Extensive anasarca.  Trace ascites. 
4. Moderate bilateral pleural effusions. 

CT A/P w/cont (___):
1. No evidence of bowel obstruction.  Status post gastric bypass
surgery 
2. Dilated common bile duct to 1.1 cm and mild intrahepatic
biliary ductal dilatation may be due to status post
cholecystectomy.  There is no evidence of choledocholithiasis. 
If this is of clinical concern MRCP could be considered. 
3. Extensive anasarca, small amount of ascites and moderate
bilateral pleural effusions may represent fluid overload 
4. Bladder wall thickening and enhancement may be due to
cystitis.  Please correlate with urinalysis 
  
NCHCT (___):
No acute intracranial abnormality. 
Please note MRI of the brain is more sensitive for the detection
of acute infarct. 
  
CXR (___):
Right PICC line tip is at the level of lower SVC.  NG tube/type
of tube terminates at the level of mid esophagus.  Bilateral
pleural effusions are large.  There is no pneumothorax.  There 
is
mild vascular congestion but no overt pulmonary edema. 

L UENI (___):
No evidence of venous thrombosis.  Some flattening of the
subclavian venous waveforms compared to usual expectation.  This
is not necessarily significant clinically but may potentially
indicate more central obstruction.  Extensive superficial edema
in the left upper extremity. 

EGD (___):
Evidence of Billroth I. Normal jejunum. NJ placed. Old NJ stuck
in patient's R nostril removed with assistance of ENT.

CT sinus/orbit (___):
1. Interval mild mucosal thickening of the right maxillary and
ethmoid sinuses, with obstruction of the right ostiomeatal
complex. 
2. Right nare Dobhoff nasogastric tube, apparently causing
narrowing of the airway on the right, please correlate.          


CT head ___:
No acute intracranial process.

CXR ___:
No acute cardiopulmonary abnormality.

MRI head with and without contrast ___:
1. Unchanged 3 punctate areas of high signal on diffusion in the
right cerebellar hemisphere.  Since these 3 punctate foci are
unchanged dating back to ___, these are likely due to
T2 shine through and chronic. 
2. No evidence of acute infarction or intracranial hemorrhage. 
3. No evidence of abnormal enhancement. 

TTE ___:
The left atrial volume index is normal. There is normal left
ventricular wall thickness with a normal cavity size. There is
suboptimal image quality to assess regional left ventricular
function. Overall left ventricular systolic function is low
normal. Quantitative biplane left ventricular ejection fraction
is 54 %. There is no resting left ventricular outflow tract
gradient. Normal right ventricular cavity size with normal free
wall motion. The aortic sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch
diameter is normal. The aortic valve leaflets (3) appear
structurally normal. There is no aortic valve stenosis. There is
no aortic regurgitation. The mitral valve leaflets are mildly
thickened with no mitral valve prolapse. There is trivial mitral
regurgitation. The tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The
estimated pulmonary artery systolic pressure is normal. There is
no pericardial effusion.
Compared with the prior TTE (images not available for review) of
___, there is no obvious change, but the suboptimal image
quality of the studies precludes definitive comparison.

CT A/P ___:
1. Status post Roux-en-Y gastric bypass.  No evidence for
internal hernia. Please note that evaluation for ischemic bowel
is limited due to the lack of IV contrast 
2. Hepatic steatosis 
3. Air within the bladder is likely related to recent
instrumentation 
4. Anasarca and small amount of ascites 
RECOMMENDATION(S):  Repeat CT with IV contrast should be
considered if ischemic bowel is a clinical consideration 

MRI head w/w/o cont (___):
1. Unchanged 3 punctate areas of high signal on diffusion in the
right cerebellar hemisphere.  Since these 3 punctate foci are
unchanged dating back to ___, these are likely due to
T2 shine through and chronic. 
2. No evidence of acute infarction or intracranial hemorrhage. 
3. No evidence of abnormal enhancement. 

 
Brief Hospital Course:
___ year old female with hx DVT/PE ___ (with systemic 
anticoagulation d/c'd ___, CVA ___, L-sided 
deficits), HTN, DM, PUD/GERD, s/p cholecystectomy and gastric
bypass ___, reversed to Billroth I) c/b multiple SBO's 
requiring ex lap, FTT s/p failed J-tube with colonic 
perforation, and chronic abdominal pain (on methadone) admitted 
to the FICU ___ with encephalopathy and hypotension in setting 
of sepsis from UTI and seizure, improved and called out to the 
floor ___, with course c/b acute on chronic abdominal pain, 
recurrent emesis, severe protein-calorie malnutrition, and 
sepsis . The patient died on ___.

# Comfort care
Patient was made CMO on ___. Palliative care was consulted for 
help in making her as comfortable as possible. She was on 
fentanyl drip and switched to methadone and dilaudid. She died 
on ___.

# Sepsis:
# UTI:
# Elevated lactate:
Presented initially with hypotension in setting of resistant 
E.coli UTI, which improved with fluids and Zosyn x 7d (through 
___. TTE with nl EF, and no evidence of ACS. Low suspicion 
for recurrent PE given improvement with antibiotics. Patient 
subsequently spiked fever ___ to 101.1F with associated 
leukocytosis, tachycardia, and increased lethargy with lactate 
4.7, concerning for recurrent sepsis. Source unclear, but was 
started on Vanc/Zosyn ___ and received 2L IVFs. Her 
leukocytosis and lactate elevation subsequently resolved; 
BCx/UCx negative and CXR without e/o PNA (despite micronodular 
opacities at bases on CT ___. Erythema around J tube 
resolved, and SSTI was thought an unlikely cause of sepsis. An 
intra-abdominal infection was considered given stranding on a CT 
and report of possible feculent J tube leakage, but no obvious 
organized collection, perforation, or extracolonic contrast 
leakage on imaging. She underwent J tube exchange on ___. 
Antibiotics were discontinued on ___ with no further fever or 
leukocytosis. The patient had recurrent fever and hypotension on 
___. She was started on vancomycin and zosyn given prior 
cuture data. Her urine culture grew resistant E. coli. She was 
continued on Zosyn alone to complete a 7 day course. The 
remainder of her infectious work up was negative.

# Nausea/emesis:
# Constipation alternating with diarrhea:
# Acute on chronic abdominal pain:
# Gastric bypass s/p reversal c/b multiple SBOs:
# J tube malpositioning:
Patient with chronic abdominal pain in setting of prior gastric 
bypass requiring reversal and report of multiple SBOs and prior 
failed J tube c/b colonic perforation. Was recently discharged 
___ with NJ in place, removed for unclear reasons as 
outpatient. Presented with acute on chronic abdominal pain, with 
CT ___ showing dilated CBD to 1.1 cm and no e/o bowel 
obstruction or hernia. MRCP with no e/o choledocholithiasis and 
biliary dilation unchanged since ___, likely from post 
cholecystectomy ectasia. She underwent placement of three NJ 
tubes this admission, all of which were dislodged or removed 
(one of which became lodged in a nare and had to be removed by 
ENT). She ultimately underwent placement of J tube by ___ on 
___. Diffuse abdominal pain worsened after placement of J 
tube, and patient had multiple episodes of large-volume bilious 
emesis ___ (the latter two episodes while off TFs) in 
setting of constipation (after treatment for TF-associated 
diarrhea). CT A/P w/cont was performed ___, which showed no 
clear evidence of obstruction or perforation but was concerning 
for possible J-tube
malpositioning (with bulb external to bowel with surrounding 
soft tissue stranding in omentum/abdominal wall; tube remained 
within the jejunum per report with no e/o active leak). TFs were 
held and she underwent J tube exchange ___ followed by slow 
resumption of TFs and diet. Nausea improved with no further 
episodes of emesis. Abdominal pain slowly improved as well and 
was treated with tylenol, home methadone, gabapentin, tramadol, 
and oxycodone PRN, which was being weaned at the time of 
discharge. TF-associated diarrhea was controlled with ________. 
She was tolerating a regular diet and TFs at goal at the time of 
discharge to rehab and will f/u with GI on ______.  In addition, 
she should f/u with her bariatric surgeon, Dr. ___, now at 
___. TF monitoring after discharge from rehab will 
be coordinated by ________. 

# Severe Protein-Calorie Malnutrition:
# Hypoalbuminemia:
# Lower copper:
# Low Zinc:
# Vitamin D deficiency:
Patient with history of malnutrition requiring supplemental TFs, 
s/p failed J-tube due to colonic perforation in past and recent 
NJ tube ___, d/c'd as outpatient for unclear reasons). 
Etiology of her malnutrition on prior admission was felt to be 
multifactorial related to chronic multifactorial abdominal pain, 
inability to take significant POs following RYGB in ___, poor 
absorption post-bypass, pain and decreased appetite related to 
anasarca and underlying anxiety/depression. S/p three NJ tubes 
this admission, last removed ___. G tube not possible given 
anatomy; TPN thought too high risk. Surgery declined surgical J 
tube, so patient underwent ___ J-tube on ___ with 
initiation of TFs ___, which were interrupted by recurrent 
emesis ___ and c/f J tube malpositioning (replaced
___. As above, jejunal TFs were at goal and patient was 
tolerating a regular diet at discharge without e/o refeeding 
syndrome. She remains profoundly malnourished, however, with 
albumin <2, lower copper, low zinc. She completed a 5d course of 
copper repletion and will complete a 14d course of zinc 
repletion through ___. TF monitoring after discharge from 
rehab will be coordinated by ________.  Home mirtazapine, 
B12/folate/thiamine were continued at discharge.

# Transaminitis with elevated alk phos:
Mild transaminitis in largely cholestatic pattern (with nl 
Tbili) on ___. Unclear etiology. CT ___ showed dilated CBD 
to 1.1 cm and no e/o bowel obstruction or hernia. MRCP with no 
e/o choledocholithiasis and biliary dilation unchanged since 
___, likely from post cholecystectomy ectasia. Repeat RUQ U/S 
on ___ showed stable mild biliary dilation, as did repeat CT 
A/P on ___. Stable at the time of discharge. She will f/u with 
GI as above.

# Toxic metabolic encephalopathy:
# Epilepsy:
Patient presented with encephalopathy and c/f seizure in setting 
of UTI and low lacosamide level (<0.5). MRI with no clear new 
seizure focus. Neuro recommended deferring LP and continuing 
home lacosamide and keppra and current dosing. Mental status 
returned to baseline (AOx3), with stable, chronic L-sided 
deficits secondary to prior CVAs. An appointment with patient's 
epileptologist, Dr. ___, is scheduled for ___.

# History of CVA w/residual L-sided weakness:
Per ICU team discussions with PCP, she had been on 
coumadin-->apixiban-->xarelto. Anticoagulation d/c'd ___ by 
PCP after discussions with neuro, who felt that her CVAs were 
cryptogenic (no afib or PFO) and her DVT/PE provoked. Lupus 
anticoagulant per PCP notes was NEGATIVE. She was continued on 
her home statin. PCP notes reference ASA, but patient reports 
allergy to ASA (bruising) it was therefore not initiated. 

# History of DVT/PE (___): 
Provoked. Lupus anticoagulant NEGATIVE per recent PCP note, and 
therapeutic anticoagulation had been d/c'd by PCP ___ prior 
to admission. Anticoagulation was not resumed this admission in 
absence of new VTE.

# Hypoglycemia:
Symptomatic hypoglycemia to ___ AM while NPO, despite 
dextrose-containing fluids. Likely secondary to inadequate 
intake and improved with D5 amps. The patient was seen by 
endocrinology who felt the only way to definitively determine 
the cause of hypoglycemia would be to perform a 72hr fast. Given 
the patients overall illness, history of malabsorption it was 
felt that her hypoglycemia is likely due to malabsorption and 
that 72hr fast would not necessarily change management. The 
patient should continue on tube feeds and if NPO should have 
close monitoring of her glucose to prevent hypoglycemia. 

# Coagulopathy:
INR 1.5 ___. Likely nutritional and improved with advancement 
of diet and TFs.

# Acute on chronic macrocytic anemia: 
Hgb stable at ___ after 1u pRBC on ___, with no e/o active 
bleeding or hemolysis. B12/folate WNL. She received additional 
1unit PRBCs on ___.  She was continued on home B12/folate at 
discharge. Hgb ____ at d/c.

# Otitis media: 
S/p amoxicillin 5d course ___.

# Depression/Anxiety: 
Continued home duloxetine, doxepin, and mirtazapine.

# QT prolongation: 
Monitored closely in setting of QTC prolonging medications. QTC 
_____ at the time of discharge.

# GOC:
Patient has had multiple admissions for acute on chronic 
abdominal pain and FTT/malnutrition with serial complications. 
Course this admission was complicated by pain, nausea/vomiting, 
and diarrhea, limiting patient's ability to receive adequate 
nutrition.
Unfortunately there is no clear medical or surgical solution to 
her ongoing malnutrition and pain, and ___, patient's 
sister/HCP, is concerned about the patient's quality of life. 
Ms. ___ was discouraged by her slow progress but expressed a 
desire to continue aggressive therapy with the hope of using 
supplemental nutrition as a bridge to a more definitive 
nutrition plan going forward. She was confirmed FULL code. 
Should she be readmitted for similar issues, would consider 
palliative care involvement and further discussion of GOC.

Name of health care proxy: Sister, ___ ___
Alternate: ___ (mother) ___
Code: FULL (confirmed)

** TRANSITIONAL **
[ ] wean TFs; to be monitored by _______
[ ] f/u with GI (at ___ and colorectal (bariatric surgeon Dr. 
___ at ___)
[ ] neuro f/u for epilepsy and prior CVAs; consider antiplatelet 
therapy (ASA not initiated given report of allergy)
[ ] continue to wean narcotics
[ ] trend QTC given chronic anti-emetic use
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Cyanocobalamin 100 mcg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Doxepin HCl 25 mg PO HS 
5. DULoxetine 40 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Gabapentin 100 mg PO TID 
8. LACOSamide 200 mg PO BID 
9. LevETIRAcetam 1500 mg PO BID 
10. Methadone 10 mg PO TID 
11. Acetaminophen (Liquid) 1000 mg PO Q8H:PRN Pain - Mild/Fever 
12. Thiamine 100 mg PO DAILY 
13. Sucralfate 1 gm PO QID 
14. Senna 17.2 mg PO BID 
15. Omeprazole 40 mg PO BID 
16. Promethazine 6.25 mg PO BID:PRN nausea 
17. Multivitamins W/minerals 1 TAB PO DAILY 
18. Mirtazapine 15 mg PO QHS 
19. Magnesium Oxide 400 mg PO BID 
20. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased

 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___